US07973114B2
5.2. Preparation of 2-[1-(1H-inden-3-yl)-1-methyl-4-pentenyl]pyridine
A solution of 8.95 g (0.0556 mol) of 2-(1-methyl4-pentenyl)pyridine in 50 ml of tetrahydrofuran was cooled to −20° C. and 35 ml of n-butyllithium (15 w.-% in hexane, 0.0556 mol) were subsequently added while stirring. The mixture was allowed to come to room temperature and was stirred for a further one hour. A solution of 7.33 g of 1-indanone in 8 ml of tetrahydrofuran was then added at such a rate that the temperature remained at 25° C. The mixture was stirred for a further 3 hours and hydrolyzed with 150 ml of dilute hydrochloric acid. The organic phase was separated off, the aqueous phase was extracted once with ethyl acetate, the aqueous phase was subsequently neutralized with aqueous ammonia solution and was extracted three times with 80 ml each time of dichloromethane. The organic phases were combined, dried over magnesium sulfate, the magnesium sulfate was filtered off and the solvent was distilled off. The crude product (about 10 g) was purified by column chromatography using a mixture of hexane:CH2Cl2=1:1 for the separation from starting 2-(1-methyl4-pentenyl)pyridine. Then, a mixture of hexane:CH2Cl2=1:2 was used. This gave 4.81 g (31%) of 2-[1-(1H-inden-3-yl)-1-methyl-4-pentenyl]pyridine.

reactant | 2-(1-methyl4-pentenyl)pyridine | 0.0556 mol, 8.95 g | CC(CCC=C)C1=NC=CC=C1 | C11H15N
reactant | n-butyllithium | 0.0556 mol, 35 ml | C(CCC)[Li]
reactant | 1-indanone | 7.33 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-[1-(1H-inden-3-yl)-1-methyl-4-pentenyl]pyridine | C1C=C(C2=CC=CC=C12)C(CCC=C)(C)C1=NC=CC=C1 | C20H21N
